* Z:\mnt\design.r\spice\examples\3596.asc
L1 N005 N002 100µ
R1 N002 N008 100K
R2 N008 0 3.65K
D1 N002 N009 AOT-2015 N=8
D2 N002 N010 AOT-2015 N=8
D3 N002 N011 AOT-2015 N=8
R3 N006 N014 90.9K
R4 N014 0 49.9K
V1 N001 0 48
C1 N002 0 4.7µ
R5 N006 N016 10K
R6 N016 0 100K
XU1 N006 N007 N001 N005 N001 N017 N004 N012 N006 N006 N008 N013 N015 0 N002 N003 N006 N006 N006 N016 N006 N009 N010 N011 N014 LT3596
R7 0 N017 33.2K
R8 0 N012 20K
R9 0 N013 20K
R10 0 N015 20K
D4 N007 N005 MBRS140
C2 N003 N005 .1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.25m startup
.lib LT3596.sub
.backanno
.end
